US06596742B1
4-(3,3,5,5-Tetramethylcyclohexyloxy)aniline (Intermediate)
Under atmospheric pressure, 8.3 g of 4-(3,3,5,5-tetramethylcyclohexyloxy) nitrobenzene in 500 ml of methanol are hydrogenated in the presence of 400 mg of platinum dioxide until the uptake of hydrogen has ended. The catalyst is filtered off, the solution is then concentrated using a rotary evaporator and the residue, a brownish oil which slowly solidifies, is used for the further reactions without any further purification.

reactant | 4-(3,3,5,5-tetramethylcyclohexyloxy) nitrobenzene | 8.3 g | CC1(CC(CC(C1)(C)C)OC1=CC=C(C=C1)[N+](=O)[O-])C | C16H23NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 ml | CO | CH4O
catalyst | platinum dioxide | 400 mg | [Pt](=O)=O
product | 4-(3,3,5,5-Tetramethylcyclohexyloxy)aniline | CC1(CC(CC(C1)(C)C)OC1=CC=C(N)C=C1)C | C16H25NO
